* NMOS sampling switch, alt: drain/source swapped (pass transistor is symmetric).
M1 vin clk vout 0 NMOS W=10u L=1u
Ch vout 0   1p
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.END
