* NMOS-input telescopic cascode OTA, fully differential output (9T).
* All cascode/current-source gates from external bias; no diode, no mirror.
M1 n_a1  vinp  ntail 0   NMOS W=10u L=1u
M2 n_a2  vinn  ntail 0   NMOS W=10u L=1u
M3 voutn vcn   n_a1  0   NMOS W=10u L=1u
M4 voutp vcn   n_a2  0   NMOS W=10u L=1u
M5 voutn vcp   n_b1  vdd PMOS W=20u L=1u
M6 voutp vcp   n_b2  vdd PMOS W=20u L=1u
M7 n_b1  vbp   vdd   vdd PMOS W=20u L=1u
M8 n_b2  vbp   vdd   vdd PMOS W=20u L=1u
M9 ntail vbias 0     0   NMOS W=20u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.0e-4 LAMBDA=0.02)
.END
